US07632838B2
To a flask containing 4-((3R)-3-methyl-4-{[3-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl]sulfonyl}piperazin-1-yl)-3-(trifluoromethyl)benzonitrile (50 mg, 0.10 mmol) and 2 mL of THF was added CoCl2 (32.5 mg, 0.25 mmol) at 0° C., then NaBH4 (28.4 mg, 0.75 mmol) was added, followed by adding 1 mL of MeOH. The reaction mixture was stirred at 0° C. for 0.5 hr. Reaction was complete as determined by TLC. The reaction mixture was filtered, washed with EtoAc. The filtrate washed with H2O, then washed with sat. brine and dried over Na2SO4, and concentrated under reduced pressure. Purification by flash column chromatography to yield 2-[3-({(2R)-4-[4-(aminomethyl)-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)phenyl]-1,1,1-trifluoropropan-2-ol as a white solid. Yield 29%. HRMS: calcd for C22H25F6N3O3S+H+, 526.15936. found (ESI-FTMS, [M+H]1+), 526.15985.

reactant | 4-((3R)-3-methyl-4-{[3-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl]sulfonyl}piperazin-1-yl)-3-(trifluoromethyl)benzonitrile | 0.10 mmol, 50 mg | C[C@@H]1CN(CCN1S(=O)(=O)C1=CC(=CC=C1)C(C(F)(F)F)(C)O)C1=C(C=C(C#N)C=C1)C(F)(F)F | C22H21F6N3O3S
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | NaBH4 | 0.75 mmol, 28.4 mg | [BH4-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | 2-[3-({(2R)-4-[4-(aminomethyl)-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)phenyl]-1,1,1-trifluoropropan-2-ol | Yield 29% | NCC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C=1C=C(C=CC1)C(C(F)(F)F)(C)O)C)C(F)(F)F | C22H25F6N3O3S
